US04233216
(D) Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]-α-chloroacetate
To a solution of diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]glycolate (2.136 g) in anhydrous methylene chloride (20 ml) are added thionyl chloride (0.90 ml) and pyridine (0.33 ml) with stirring at 0° C. After stirring for 1 hour at 0° C., the mixture is poured into ice water, and extracted with ethyl acetate. The organic layer is washed with water, dried over sodium sulfate, and evaporated under reduced pressure to give the crude product of a mixture of epimers at position α.

reactant | diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]glycolate | 2.136 g | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)O)=O)NC(CC1=CC=CC=C1)=O | C29H28N2O7
reactant | thionyl chloride | 0.90 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.33 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]-α-chloroacetate | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)=O)NC(CC1=CC=CC=C1)=O | C29H27ClN2O6
